US05281612
Hydroxylamine hydrochloride (5.58 g, 0.076 mole) was added to a solution of 4-acetyl-1-benzyl-2-pyrrolidinone (15.0 g, 0.069 mole) in pyridine (250 mL) and the reaction mixture was heated at 40° with stirring under nitrogen for 18 hours. The solvent was removed under reduced pressure at 65° and the residue was dissolved in chloroform (900 mL), washed with water (500 mL), 0.5M HCl (3×500 mL), and dried (MgSO4). The solvent was removed under reduced pressure to give 1-benzyl-4-(1-hydroxyiminoethyl)-2-oxo-pyrrolidine (16.7 g, quant) as a brown solid.

reactant | Hydroxylamine hydrochloride | 0.076 mole, 5.58 g | Cl.NO
reactant | 4-acetyl-1-benzyl-2-pyrrolidinone | 0.069 mole, 15.0 g | C(C)(=O)C1CC(N(C1)CC1=CC=CC=C1)=O | C13H15NO2
solvent | pyridine | 250 mL | N1=CC=CC=C1 | C5H5N
product | 1-benzyl-4-(1-hydroxyiminoethyl)-2-oxo-pyrrolidine | 16.7 g | C(C1=CC=CC=C1)N1C(CC(C1)C(C)=NO)=O | C13H16N2O2
